US05498624
N-Boc aniline:
Phenylisocyanate (500 g) and tert-butanol (500 mL) are mixed in toluene (500 mL) in a 2 L round bottom flask. The solution is stirred over night in a 50° C. water bath. The N-Boc aniline is collected by filtration to give the white solid (702 g).

reactant | Phenylisocyanate | 500 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | tert-butanol | 500 mL | C(C)(C)(C)O | C4H10O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | N-Boc aniline | 702 g | C(=O)(OC(C)(C)C)NC1=CC=CC=C1 | C11H15NO2
